US20010003121A1
2-Chloro-5-methylthio-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide
To a solution of 2-chloro-5-methylthiobenzoic acid (0.2 g) and 1-hydroxy benzotriazole (0.13 g) in dichloromethane (10 ml) was added 1-adamantanemethylamine (0.17 ml). The mixture was stirred 5 min and then 1,3-dicyclohexylcarbodiimide (0.2 g) was added. Stirring was continued overnight. The resulting precipitate was filtered and the filtrate concentrated under reduced pressure. The residue was partitioned between dichloromethane and water and the organic layer was separated, washed with dilute hydrochloric acid, aqueous sodium bicarbonate and brine and then dried over magnesium sulphate (MgSO4). The organic layer was concentrated under reduced pressure and the residue purified by silica gel chromatography (eluting with 20% ethyl acetate in isohexanes) to yield the title compound as a white solid (0.31 g).

reactant | 2-chloro-5-methylthiobenzoic acid | 0.2 g | ClC1=C(C(=S)O)C=C(C=C1)C | C8H7ClOS
reactant | 1-hydroxy benzotriazole | 0.13 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-adamantanemethylamine | 0.17 ml | C12(CC3CC(CC(C1)C3)C2)CN | C11H19N
reactant | 1,3-dicyclohexylcarbodiimide | 0.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-Chloro-5-methylthio-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide | 0.31 g | ClC1=C(C(=O)NCC23CC4CC(CC(C2)C4)C3)C=C(C=C1)SC | C19H24ClNOS
